Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.58257753375
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],3.0272061909599994
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.03858642843
[H:1]/[C:2](=[C:3](/[H:4])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.7720417420099996
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.45253180386
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1],5.97054677487
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12]>>[C:10][O:11][H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.1492098685400025
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5],1.68853236994
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],2.51801801883
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.46642275324
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.9468633036400003
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:4][H:5],5.403946039939999
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.76783084843
[O:1]=[C:2]([C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9]>>[C:6][H:7].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:8][H:9],3.29745715559
[C:1][C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8]>>[C:1].[C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8],6.73558524991
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.629726434069999
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-6.08503367595
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.27941318809
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],6.56137657984
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11],-0.6940069783
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])#[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],-1.14072351933
[C:3]([H:4])[O:5][O:6][H:7].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][H:7],-6.78533274651
[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9]>>[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:7][C:8][H:9],2.76467232264
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][H:7],2.49359072249
[C:3]([H:4])([H:5])=[C:6][O:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],0.84568162207
[H:5].[O:1][O:2][C:3](=[C:4])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.47780508457
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.0191266514512
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11][H:12],5.12147427301
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.0370066165700003
[C:1]=[O:2].[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],3.50291204101
